US05563044
1.25M solution of Leu-NH2 in DMAC was prepared by dissolving Leu-NH2.HCl (1.33 g, 7.98 mmol) in 5.0 mL of water, titrating to pH 8.0 with 1M NaOH, lyophilizing, and taking up the residue in 6.4 ml of DMAC. The NaCl precipitate was removed by filtering through a fine glass frit to give a clear solution of pH 9.25.

reactant | Leu-NH2.HCl | 7.98 mmol, 1.33 g | N[C@@H](CC(C)C)C(=O)N.Cl
reactant | NaOH | 1M | [OH-].[Na+]
solvent | DMAC | CC(=O)N(C)C | C4H9NO
solvent | water | 5.0 mL | O | H2O
solvent | DMAC | 6.4 ml | CC(=O)N(C)C | C4H9NO
product | Leu-NH2 | N[C@@H](CC(C)C)C(=O)N | C6H14N2O
